US07288563B2
Part B. Preparation of 5-(3-benzyloxycarbonylamino-2-oxopyrrolidin-1-yl)-4-(propane-2-sulfonylmethyl)-octahydrocyclopenta[c]pyrrole-2-carboxylic acid tert-butyl ester
A solution of 5-(3-benzyloxycarbonylamino-2-oxo-pyrrolidin-1-yl)-4-isopropylsulfanylmethyloctahydro-cyclopenta[c]pyrrole-2-carboxylic acid tert-butyl ester in isopropanol is treated with a solution of oxone in water. The reaction mixture is stirred at room temperature until the reaction is complete, and then water and ethyl acetate are added. The organic layer is separated, dried over sodium sulfate and concentrated under vacuum providing the title product.

reactant | 5-(3-benzyloxycarbonylamino-2-oxo-pyrrolidin-1-yl)-4-isopropylsulfanylmethyloctahydro-cyclopenta[c]pyrrole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2C(C1)C(C(C2)N2C(C(CC2)NC(=O)OCC2=CC=CC=C2)=O)CSC(C)C | C28H41N3O5S
reactant | oxone | OOS(=O)[O-].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | isopropanol | C(C)(C)O | C3H8O
solvent | water | O | H2O
product | 5-(3-benzyloxycarbonylamino-2-oxopyrrolidin-1-yl)-4-(propane-2-sulfonylmethyl)-octahydrocyclopenta[c]pyrrole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2C(C1)C(C(C2)N2C(C(CC2)NC(=O)OCC2=CC=CC=C2)=O)CS(=O)(=O)C(C)C | C28H41N3O7S
